US05972888
Preparation of [6-(n-hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone
In dry tetrahydrofuran (250 ml) 3 g (5.9 mmol) of [6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone hydrochloride was suspended and 10 mg of DMAP was added. Triethylamine (4 g, 40 mmol) was then added and the reaction mixture was stirred for 20 minutes at room temperature under a nitrogen blanket. n-Hexylsulfonyl chloride (3.6 g, 19.6 mmol) in 25 ml of tetrahydrofuran was slowly added to the reaction mixture. The reaction was allowed to proceed at room temperature and under nitrogen for 3 days. The reaction mixture was evaporated down in vacuo and resuspended in ethyl acetate and washed with water. The organic layer was dried by filtering it through anhydrous sodium sulfate and evaporated to a yellow oil. The oil was dissolved in chloroform and chromatographed (HPLC) on a silica gel column and eluted with a linear gradient starting with chloroform and ending with chloroform-methanol (19:1 v/v). The desired fractions were determined by thin layer chromatography, combined and evaporated down to afford 3.14 g of the title compound as a thick oil.

reactant | [6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone hydrochloride | Cl.OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C1
reactant | Triethylamine | 40 mmol, 4 g | C(C)N(CC)CC | C6H15N
reactant | n-Hexylsulfonyl chloride | 19.6 mmol, 3.6 g | C(CCCCC)S(=O)(=O)Cl | C6H13ClO2S
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.9 mmol, 250 ml, 3 g | O1CCCC1 | C4H8O
product | [6-(n-hexylsulfonoyl)-2-[4-(n-hexylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone | 3.14 g | C(CCCCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCCCC)C1 | C40H51NO6S3
